US06479487B1
1-(4-Hydroxybutyl)-4-piperidone oxime is prepared from 1-(4-hydroxybutyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(4-hydroxybutyl)-4-piperidone | OCCCCN1CCC(CC1)=O | C9H17NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(4-Hydroxybutyl)-4-piperidone oxime | OCCCCN1CCC(CC1)=NO | C9H18N2O2
